US08383644B2
(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester (0.33 g) was coupled with (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride (0.20 g) according to General Procedure L to provide (3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester (0.30 g). LCMS (m/z): 853.

reactant | (3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester | 0.33 g | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(=O)O)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl | C30H29Cl2NO7
reactant | (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride | 0.20 g | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)N)=O
product | (3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-8-{(S)-2-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-1-methoxycarbonyl-ethylcarbamoyl}-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7-carboxylic acid tert-butyl ester | 0.30 g | C(C)(C)(C)OC(=O)N1CC=2C=C3C(=CC2C[C@H]1C(N[C@@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)C(=O)OC)=O)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl | C47H47Cl2N3O8
